* C:\Users\ruhiy\projects\photodetector\Photodetector_v1.asc
* Generated by LTspice 24.1.7 for Windows.
D1 N011 N010 D
D2 N020 N015 D
R1 N001 N002 13k
R2 N007 N006 500
R3 N020 N019 500
R4 N025 N029 3k
R5 N012 N011 10
R§10 N012 N015 R
R7 N022 N021 10
R8 N009 N008 10
R9 N027 0 100
R10 N003 N013 10
R11 N014 N018 4.99k
R12 N005 N004 200k
R13 N028 N027 1k
R14 N017 N016 50
R15 N023 0 50
R§1k N024 N023 R
R17 N026 N024 50
R18 N011 N015 100
C§6.8u N002 N010 C
C2 N020 N025 6.8µ
C3 N004 N012 100n
C4 N027 0 100n
C§500f N005 N004 C
C6 N016 N005 100n
X§U1 N028 N023 NC_01 NC_02 N024 OP27
J1 N007 N011 N008 NJF
J2 N021 N015 N020 NJF
J3 N013 N004 N014 NJF
L1 N012 N027 660µ
V§+V_adjust N006 0 5
V§-V_adjust N019 0 5
V1 N009 0 +5
V2 N022 0 +5
V3 N029 0 -5
V4 N001 0 -5
V5 N003 0 +5
V6 N018 0 -5
X§U3 N014 0 NC_03 NC_04 N005 OPA657
.model D D
.lib C:\Users\ruhiy\AppData\Local\LTspice\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruhiy\AppData\Local\LTspice\lib\cmp\standard.jft
.op
.lib OPA657.lib
.lib ADI.lib
.lib C:\Users\ruhiy\projects\photodetector\OPA657.lib
.backanno
.end

